US08058045B2
Methyl 4-((1-(tert-butoxycarbonyl)piperidin-4-yl)methylamino)-6-chloronicotinate (90 mg, 0.23 mmol), 5-methylpyrazin-2-amine (38 mg, 0.35 mmol, as described in Itoh et al., 2002), cesium carbonate (153 mg, 0.47 mmol), 4,5-bis(diphenyl phosphino)-9,9-dimethylxanthene (11 mg, 8 mol %), and tris(dibenzylidene acetone)dipalladium chloroform complex (10 mg, 4 mol %) were added to an oven-dried microwave reactor vial (2 mL) which was capped and flushed with nitrogen. Anhydrous toluene (1.35 mL) was added and nitrogen was bubbled through the stirred solution for 10 minutes. The mixture was heated at 130° C. for 30 minutes by microwave irradiation. The solution was cooled, diluted with dichloromethane-methanol and adsorbed onto a 2 g (solute SCX-II column. The resin was washed with methanol, then with 2M ammonia in methanol. The basic fractions were concentrated and the residue was purified by preparative TLC, eluting with 10% methanol-dichloromethane) to give methyl 6-(5-methylpyrazin-2-ylamino)-4-(1-Boc-piperidin-4-ylmethylamino)nicotinate (35 mg) as a light green powder.

reactant | Methyl 4-((1-(tert-butoxycarbonyl)piperidin-4-yl)methylamino)-6-chloronicotinate | 0.23 mmol, 90 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)CNC1=CC(=NC=C1C(=O)OC)Cl | C18H26ClN3O4
reactant | 5-methylpyrazin-2-amine | 0.35 mmol, 38 mg | CC=1N=CC(=NC1)N | C5H7N3
reactant | cesium carbonate | 0.47 mmol, 153 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 4,5-bis(diphenyl phosphino)-9,9-dimethylxanthene | 11 mg | C1(=CC=CC=C1)P(C1=CC=CC=2C(C3=CC=CC(=C3OC12)P(C1=CC=CC=C1)C1=CC=CC=C1)(C)C)C1=CC=CC=C1 | C39H32OP2
product | methyl 6-(5-methylpyrazin-2-ylamino)-4-(1-Boc-piperidin-4-ylmethylamino)nicotinate | 35 mg | CC=1N=CC(=NC1)NC1=NC=C(C(=O)OC)C(=C1)NCC1CCN(CC1)C(=O)OC(C)(C)C | C23H32N6O4
